US07432256B2
a) 2-Fluoro-5-trifluoromethoxy-benzaldehyde
A solution of 1-fluoro-4-trifluoromethoxy-benzene (21.0 g, 117 mmol) in THF (233 ml) was cooled to <−70° C. Tert.-butyllithium (86 ml of a 1.5 molar solution in pentane, 129 mmol) was added at such a rate that temperature was kept <−70° C. Stirring in the dry ice bath was continued for 15 min, then DMF (11.6 ml, 150 mmol) was added dropwise keeping temperature <−70° C. After 30 min the reaction mixture was allowed to reach rt, quenched with saturated NH4Cl solution and extracted with ether. The organic phase was washed with brine, concentrated and chromatographed (SiO2, heptane:ethyl acetate=100:0 to 80:2). The title compound (11.0 g, 53%) was obtained as a light yellow oil. 1H-NMR (300 MHz, DMSO): δ=7.60 (t, J=9.2 Hz, 1H), 7.75-7.85 (m, 2H), 10.20 (s, 1H).

reactant | 1-fluoro-4-trifluoromethoxy-benzene | 117 mmol, 21.0 g | FC1=CC=C(C=C1)OC(F)(F)F | C7H4F4O
reactant | Tert.-butyllithium | C(C)(C)(C)[Li]
reactant | dry ice | C(=O)=O | CO2
reactant | DMF | 150 mmol, 11.6 ml | CN(C)C=O | C3H7NO
solvent | THF | 233 ml | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | 2-Fluoro-5-trifluoromethoxy-benzaldehyde | 11.0 g, 53% | FC1=C(C=O)C=C(C=C1)OC(F)(F)F | C8H4F4O2
